US09422292B2
A solution of 8-bromo-6-(4-chlorophenyl)-1-methyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine (30 mg, 0.08 mmol), 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine (35 mg, 0.16 mmol), Tetrakis(triphenylphosphine)palladium(0) (10 mg) and Cs2CO3 (60 mg, 0.16 mmol) in dioxane (5 mL) and water (1 mL) was heated at 120° C. under microwave for 20 min. The reaction mixture was concentrated to give the crude product, which was purified by prep-TLC (DCM:MeOH=12:1) to afford 5-(6-(4-chlorophenyl)-1-methyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-8-yl)pyridin-2-amine (9.3 mg, yield 29%).

reactant | 8-bromo-6-(4-chlorophenyl)-1-methyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine | 0.08 mmol, 30 mg | BrC=1C=CC2=C(N(CCC=3N2C(=NN3)C)C3=CC=C(C=C3)Cl)C1 | C17H14BrClN4
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine | 0.16 mmol, 35 mg | CC1(OB(OC1(C)C)C=1C=CC(=NC1)N)C | C11H17BN2O2
reactant | Cs2CO3 | 0.16 mmol, 60 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 10 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(6-(4-chlorophenyl)-1-methyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-8-yl)pyridin-2-amine | 9.3 mg, yield 29% | ClC1=CC=C(C=C1)N1C2=C(N3C(CC1)=NN=C3C)C=CC(=C2)C=2C=CC(=NC2)N | C22H19ClN6
